US09212348B2
Synthesis of ethyl 4,4-dimethyl-3-oxo-5-phenylpentanoate
Ethyl 3-oxobutanoate (1.09 g, 8.3 mmol) in methylene chloride (16 mL) was mixed with anhydrous magnesium chloride (158 mg, 1.66 mmol), and the reaction solution was cooled to 0° C. and mixed with pyridine (1.34 mL, 16.6 mmol), stirred for 30 minutes, then mixed with 2,2-dimethyl-3-phenylpropanoyl chloride (1.64 g, 8.3 mmol) and stirred for another 30 minutes at the same temperature. The reaction solution was warmed to room temperature and stirred for 20 hours. The methylene chloride was distilled off under reduced pressure, and the residue was with ethanol (2 mL) and at room temperature for 2 days and with toluene (2 mL) at 60° C. for 5 hours. After completion of the reaction, the reaction solution was washed with saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate (50 mL×2). The solvent was removed from the resulting organic layer under reduced pressure, and the resulting brown oil was purified by intermediate pressure silica gel column chromatography (silica gel 12 g, ethyl acetate:hexane=1:19 to 1:9) to give 370 mg of the desired product as a light brown oil.

reactant | Ethyl 3-oxobutanoate | 8.3 mmol, 1.09 g | O=C(CC(=O)OCC)C | C6H10O3
reactant | magnesium chloride | 1.66 mmol, 158 mg | [Cl-].[Mg+2].[Cl-]
reactant | pyridine | 16.6 mmol, 1.34 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,2-dimethyl-3-phenylpropanoyl chloride | 8.3 mmol, 1.64 g | CC(C(=O)Cl)(CC1=CC=CC=C1)C | C11H13ClO
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4,4-dimethyl-3-oxo-5-phenylpentanoate | 370 mg | CC(C(CC(=O)OCC)=O)(CC1=CC=CC=C1)C | C15H20O3
